US05252735
Acetyl morpholine (546 ul, 4.72 mmole) was dissolved in 10 ml dry tetrahydrofuran in an oven dried 50 ml two neck round bottom flask under nitrogen. The solution was cooled to 0° C. and was treated slowly dropwise with lithium diisopropylamide (3.2 ml, 4.72 mmole). The mixture was stirred 30 minutes at 0° C. and was treated with methyl-2-benzyloxyphenyl propiolate (600 mg, 2.25 mmole) in 2 ml dry tetrahydrofuran. The reaction mixture was stirred for 1 hour at 0° C. and was diluted with 10 ml water. The volatiles were removed in vacuo and the residue was crystallized from diethyl ether/methanol (20:1). The tan solid was collected, was washed with diethyl ether, and was dried to afford 500 mg (61%) of morpholine-5-(2-Benzyloxyphenyl)-3-oxo-pent-4-ynamide as a tan solid. Melting Point: 224°-227° C.

reactant | Acetyl morpholine | 4.72 mmole, 546 ul | C(C)(=O)N1CCOCC1 | C6H11NO2
reactant | lithium diisopropylamide | 4.72 mmole, 3.2 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl-2-benzyloxyphenyl propiolate | 2.25 mmole, 600 mg | C(C#C)(=O)OC1=C(C(=CC=C1)C)OCC1=CC=CC=C1 | C17H14O3
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | morpholine 5-(2-Benzyloxyphenyl)-3-oxo-pent-4-ynamide | 500 mg, 61% | N1CCOCC1.C(C1=CC=CC=C1)OC1=C(C=CC=C1)C#CC(CC(=O)N)=O | InChI=1S/C18H15NO3.C4H9NO/c19-18(21)12-16(20)11-10-15-8-4-5-9-17(15)22-13-14-6-2-1-3-7-14;1-3-6-4-2-5-1/h1-9H,12-13H2,(H2,19,21);5H,1-4H2
